2120-11-20 07:09:00 Physician Resident Progress Note
Chief Complaint: Altered mental status, aspiration pneumonia
   24 Hour Events:
 INVASIVE VENTILATION - START [**2120-11-19**] 08:40 AM
 ARTERIAL LINE - START [**2120-11-19**] 03:51 PM
   -dilt gtt d/c'd
   -day 1 ceftriax/clinda for aspiration PNA cov'g
   -right radial a-line placed
   -FiO2 decr to 50%
   -RN noticed whole body shaking activity most consistent with vagal
   response to stimulation neuro exam otherwise unchanged with stable V/S
   -incr propofol due to vent dyssynchrony
   Patient unable to provide history: Sedated
   Allergies:
   Last dose of Antibiotics:
   Metronidazole - [**2120-11-19**] 10:00 AM
   Ceftriaxone - [**2120-11-20**] 12:00 AM
   Clindamycin - [**2120-11-20**] 02:00 AM
   Infusions:
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2120-11-19**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2120-11-20**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-11-20**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.7
C (99.8
   HR: 100 (80 - 109) bpm
   BP: 107/59(73) {99/55(68) - 153/80(101)} mmHg
   RR: 24 (19 - 30) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,674 mL
                                                                  1,245 mL
   PO:
             TF:
   IVF:
                                                                  2,614 mL
                                                                  1,245 mL
   Blood products:
   Total out:
                                                                  2,500 mL
                                                                  1,040 mL
   Urine:
                                                                  1,500 mL
                                                                  1,040 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,174 mL
                                                                    205 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   SpO2: 96%
   ABG: 7.41/43/107/27/1
   Ve: 10 L/min
   PaO2 / FiO2: 214
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   167 K/uL
   12.0 g/dL
   101 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.6 mEq/L
   12 mg/dL
   108 mEq/L
   140 mEq/L
   35.1 %
   8.9 K/uL
        [image002.jpg]
                            [**2120-11-19**]  01:20 PM
                            [**2120-11-19**]  04:16 PM
                            [**2120-11-19**]  07:03 PM
                            [**2120-11-19**]  08:21 PM
                            [**2120-11-19**]  09:37 PM
                            [**2120-11-20**]  03:38 AM
                            [**2120-11-20**]  03:51 AM
   WBC
   8.9
   Hct
   35.1
   Plt
   167
   Cr
   1.0
   TropT
   <0.01
   TCO2
   26
   26
   26
   26
   28
   Glucose
   101
   Other labs: CK / CKMB / Troponin-T:113/4/<0.01, ALT / AST:[**1-23**], Alk
   Phos / T Bili:53/0.6, Lactic Acid:1.1 mmol/L, Albumin:3.3 g/dL, LDH:247
   IU/L, Ca++:7.9 mg/dL, Mg++:1.7 mg/dL, PO4:1.5 mg/dL
   Imaging: CXR [**11-19**]:  IMPRESSION: Diffuse consolidation and nodules are
   concerning for metastatic disease or septic emboli, athough cavitation
   often present with septic emboli are not seen.
   Microbiology: Sputum:  GRAM STAIN--NO MICROORGANISMS SEEN; RESPIRATORY
   CULTURE--pending.
   Urine:  pending
   Blood:  pending
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PNEUMONIA, ASPIRATION
 ATRIAL FIBRILLATION (AFIB)
   31 yo M with history of narcotic/heroin abuse found unresponsive,
   respiratory failure, intubated at OSH.
   # Respiratory failure:  Given clinical setting, patient likely
   aspirated.  Has evidence of patchy infiltrates on CXR and ?abscess on R
   side, leukocytosis with bandemia of 17%, rectal temperature of 100, and
   lactate of 2.9.  ABG with A-a gradient with pO2 of 76 despite 100%
   FiO2.  Qualifies for ARDS.
   - cont. CTX/clindamycin for aspiration pneumonia coverage
   - f/u sputum, blood, urine cultures
   - trend WBC, bandemia, lactate
   - cont. ARDsnet protocol with low tidal volumes and plateau pressure
   <30
   - wean FiO2 as tolerated
   # Aspiration pneumonia v. pneumonitis:  As above.  No signs of septic
   shock (briefly hypotensive after starting propofol, improved with
   weaning of dilt) at this time though leukocyte count has fallen
   dramatically and bandemia has emerged.
   - empiric ceftriaxone/clindamycin
   - f/u sputum cx, bcxs, ucx
   - hold on CVL for now but if clinically worsens, will need central
   access
   - serial CXRs to assess R-sided lesion
   - consider CT chest if R-sided lesion persists
   # Acute mental status changes:  Likely secondary to opiate abuse, did
   not improve with narcan.  [**Month (only) 8**] have lost tolerance while clean for the
   past 8 months.  Although has infectious/inflammatory process, unlikely
   to be meninigitis as was fine couple hours prior to presentation.
   - supportive care
   - propofol gtt to monitor mental status
   # HCT drop, plt drop:
   - recheck CBC
   - check coags
   - Add on hemolysis labs, peripheral smear for RBC morphology
   # Atrial fibrillation:  Likely secondary to hypoxia.  Converted to SR
   on dilt.  Currently off dilt gtt.
   - monitor on tele
   # Troponin leak:  Likely from a fib.  Resolved.
   # FEN: IVFs / replete lytes prn / nutrition consult for TFs
   # PPX: H2RA, heparin SQ
   # ACCESS: PIV, a line, consider for CVL v. PICC
   # CODE:  FULL
   # CONTACT:  Mother [**Name (NI) 2086**] [**Telephone/Fax (1) 9390**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-11-19**] 09:12 AM
   Arterial Line - [**2120-11-19**] 03:51 PM
   22 Gauge - [**2120-11-19**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU